### ISSUE TITLE
A shallow embedding of K definitions into Lean 4

### ISSUE THREAD

**Issue by tothtamas28** [runtimeverification/k#4552]
The transformation should be based on `definition.kore`. However, for ease of exposition, examples will be based on the `.k` definition.

# Prelude

We need a manual Lean 4 implementation of (parts of) `domains.md`. The implementation should define sorts like `Int` and `Map`, functions over them, and provide useful theorems. Stubs for hooked functions, as well as non-hooked function implementations (hopefully) can be auto-generated.

We need to decide if we want to map sorts directly (e.g. K `Int` to Lean 4 `Int`), or add an extra layer (`KInt.mk : Int -> KInt`). In the direct mapping case, `abbrev` is useful for aliasing Lean 4 types:

```lean4
abbrev KId := String
```

The mapping is obvious for some sorts, for others, we might need a custom implementation:

| K        | Lean 4       |
|----------|--------------|
| `Bool`   | `Bool`       |
| `Int`    | `Int`        |
| `String` | `String`     |
| `Bytes`  | `ByteArray`  |
| `List`   | `List KItem` |
| `Set`    | custom?      |
| `Map`    | custom?      |

The sort `K` with constructors `dotk : K` and `kseq : KItem -> K` can either be modeled as `List KItem`, or as generated from `definition.kore`.

# User defined sorts

```k
syntax AExp ::= AExp "*" AExp
              > AExp "+" AExp
```

```lean4
inductive AExp : Type where
    | mul : AExp -> AExp -> AExp
    | add : AExp -> AExp -> AExp
    deriving DecidableEq
```

Sorts that depend on each other should be put in a `mutual` block:

```k
syntax Block ::= "{" "}"
               | "{" Stmt "}"

syntax Stmt  ::= Block
               | ...
```

```lean4
mutual
    inductive Block : Type where
        | empty : Block
        | single : Stmt -> Block
        deriving DecidableEq

    inductive Stmt : Type where
        | inj_block : Block -> Stmt
        | ...
        deriving DecidableEq
end
```

It's probably fine to model user lists as `List`.

```k
syntax Ids ::= List{Id, ","}
```

```lean4
abbrev KIds := List KId
```

# Injection

The sort of ad-hoc polymorphism provided by injections can be modeled using type classes.

```lean4
class Inj (a b : Type) where ...

instance : Inj KInt AExp := ...
instance : Inj AExp KItem := ...
instance : Inj KInt KItem := ...

axiom inj {a b : Type} [Inj a b] (x : a) : b := ...
```

It is probably possible to define a transitivity instance to reduce the number of explicitly defined instances, but that complicates type class resolution.

Unfortunately, implementing the `inj` function is not straightforward. To demonstrate the problem, consider

```
 KItem
  / \
Bar Baz
  \ /
  Foo
```

Here, we need

```
inj{Bar,KItem} ∘ inj{Foo,Bar} = inj{Foo,KItem} = inj{Baz,KItem} ∘ inj{Foo,Baz}
```

Without a deeper embedding, this does not seem directly feasible, but approximations are possible.

## Axiomatic approach

```lean4
class Inj (a b : Type)

instance : Inj KInt AExp := {}
instance : Inj AExp KItem := {}
instance : Inj KInt KItem := {}

axiom inj {a b : Type} [Inj a b] (x : a) : b
axiom inj_tran {a b c : Type} [iab : Inj a b] [ibc : Inj b c] [iac : Inj a c] {x : a} : @inj b c ibc (@inj a b iab x) = @inj a c iac x

noncomputable example : KItem := inj (KInt.mk 0)
```

Here, we just assert the function and its transitivity. On the downside, all functions calling `inj` have to be marked `noncomputable`, so we lose computability.

## Constructive approach

```k
syntax AExp  ::= Int | Id
syntax KItem ::= AExp
```

```lean4
inductive AExp : Type where
    | inj_int : KInt -> AExp
    | inj_id : KId -> AExp

inductive KItem : Type where
    | inj_int : KInt -> KItem
    | inj_id : KId -> KItem
    | inj_aexp : AExp -> KItem

instance : Inj KInt AExp where
    inj := AExp.inj_int

instance : Inj KId AExp where
    inj := AExp.inj_id

instance : Inj KInt KItem where
    inj := KItem.inj_int

instance : Inj KId KItem where
    inj := KItem.inj_id

instance : Inj AExp KItem where
    inj (x : AExp) :=
        match x with
        | AExp.inj_int n => KItem.inj_int n
        | AExp.inj_id id => KItem.inj_id id
        | _ => KItem.inj_aexp x
```

Here, as expected,

```
(inj (inj (KInt.mk 0) : AExp) : KItem) = (inj (KInt.mk 0) : KItem) = KItem.inj_int (KInt.mk 0)
```

On the downside, the constructors induce spurious terms like `KItem.inj_aexp (AExp.inj_int (KInt.mk 0))`. Since we never refer to such terms in the transition relation, this is probably acceptable.

# Rewrite rules

It seems straightforward to get an overapproximation of the transition relation by neglecting rule priorities and ensures clauses (and probably other finer details we're just not aware yet).

```k
rule <k> int (X , Xs => Xs) ; _ ... </k> <state> STATE => STATE [ X <- 0 ] </state>
  requires notBool (X in keys(STATE))
```

```lean4
def config (k : K) (state : Map) : GeneratedTopCell :=
    GeneratedTopCell.mk (TCell.mk (KCell.mk k) (StateCell.mk state))

inductive Rewrites : GeneratedTopCell -> GeneratedTopCell -> Prop where
    | decl_nonempty {rest : K} {state : Map} {s : Stmt} {id : KId} {ids : KIds} :
        not (state.contains (inj id)) ->
        Rewrites
            (config (K.kseq (inj (Pgm.mk (id :: ids) s)) rest) state)
            (config (K.kseq (inj (Pgm.mk ids s)) rest) (state.insert (inj id) (inj (KInt.mk 0))))
```

Free variables become implicit arguments, `requires` becomes an antecedent, and the LHS and RHS are mapped directly.

# Functions

Ideally, we can map K functions to Lean 4 functions. So far, this seems to be the most challenging part of the transformation. The reason for this is a discrepancy in representation. K function rules have a priority, a `requires` and a pattern to match. These induce `if` and `match` expressions, and the cases for the latter need to be non-overlapping and total.

We need a best effort transformation that handles at least the simple cases (like `foo` below). We might also be able to rewrite some functions to a form that's better suited for the transformation. For the rest of the cases, we can still generate a signature, and either handle them axiomatically (by generating theorems from `simplification` rules), or implement them manually.

## Totality

The generated Lean 4 functions have to be total. We can handle this by returning `Option` from non-total functions, then expect a proof of definedness for rewrite rules:

```k
rule foo X => X +Int 1 requires X >=Int 0
rule foo X => X -Int 1 requires X <Int  0

rule [do-foo] <state/> X => foo(X) </state>
```

```lean4
def foo (x : KInt) : Option KInt :=
    if KInt.ge x (KInt.mk 0) then
        some (KInt.add x (KInt.mk 1))
    else if KInt.lt x (KInt.mk 0) then
        some (KInt.sub x (KInt.mk 1))
    else
        none

do-foo {x : KInt} : foo x = some y -> Rewrites (StateCell.mk x) (StateCell.mk y)
```

Here, we implicitly assume the `requires` clauses are non-overlapping (hopefully K enforces this to some extent).

Note that we could mark `foo` `total` in K. In these case, we can auto generate a proof obligation:

```lean4
theorem foo_total {x : KInt} : exists (y : KInt), foo x = some y := sorry
```

From this, we can get the witness for taking rewrite step `do-foo`. An even better solution to generate inline proofs / proof stubs for fallthrough cases:

```lean4
def foo (x : KInt) : Option KInt :=
    if h0 : KInt.ge x (KInt.mk 0) then
        some (KInt.add x (KInt.mk 1))
    else if h1 : KInt.lt x (KInt.mk 0) then
        some (KInt.sub x (KInt.mk 1))
    else by
        exfalso
        exact foo_total_1 h0 h1

theorem foo_total
    (h0 : not (KInt.ge x (KInt.mk 0)))
    (h1 : not (KInt.lt x (KInt.mk 0)))
: False := sorry
```

Then the `Option` wrapper and the extra implication can even be omitted:

```lean4
do-foo {x : KInt} : Rewrites (StateCell.mk x) (StateCell.mk (foo x))
```

# Code generation

The code generator should be implemented in a way that auto generated vs user supplied code is separated.

Also, code generation should be based on an internal model of the generated Lean 4 program (as opposed to appending strings directly as in `ModuleToKore`). In one extreme, the model is the Lean 4 abstract syntax, but full generality is not necessary for our purposes. We should check if there's a Python package that implements the Lean 4 AST.

Files representing Lean 4 abstract syntax:
* https://github.com/leanprover/lean4/blob/master/src/Lean/Expr.lean
* https://github.com/leanprover/lean4/blob/master/src/Lean/Declaration.lean

---

Related:
* #4696

**Comment by tothtamas28** [comment]
A small script to print the AST for a `.lean` file:

```
import Lean

open Lean
open Lean.Parser

def main (args : List String): IO Unit := do
    let env ← mkEmptyEnvironment
    let fname := args.get! 0
    let tsyntax ← testParseFile env fname
    IO.println tsyntax
```

```
$ lean --run ParseModule.lean ParseModule.lean
```

<details>
<summary>output</summary>

```
(Module.module
 (Module.header [] [(Module.import "import" [] `Lean [])])
 [(Command.open "open" (Command.openSimple [`Lean]))
  (Command.open "open" (Command.openSimple [`Lean.Parser]))
  (Command.declaration
   (Command.declModifiers [] [] [] [] [] [])
   (Command.definition
    "def"
    (Command.declId `main [])
    (Command.optDeclSig
     [(Term.explicitBinder "(" [`args] [":" (Term.app `List [`String])] [] ")")]
     [(Term.typeSpec ":" (Term.app `IO [`Unit]))])
    (Command.declValSimple
     ":="
     (Term.do
      "do"
      (Term.doSeqIndent
       [(Term.doSeqItem (Term.doLetArrow "let" [] (Term.doIdDecl `env [] "←" (Term.doExpr `mkEmptyEnvironment))) [])
        (Term.doSeqItem
         (Term.doLet "let" [] (Term.letDecl (Term.letIdDecl `fname [] [] ":=" (Term.app `args.get! [(num "0")]))))
         [])
        (Term.doSeqItem
         (Term.doLetArrow
          "let"
          []
          (Term.doIdDecl `tsyntax [] "←" (Term.doExpr (Term.app `testParseFile [`env `fname]))))
         [])
        (Term.doSeqItem (Term.doExpr (Term.app `IO.println [`tsyntax])) [])]))
     (Termination.suffix [] [])
     [])
    []))])
```
</details>

**Comment by tothtamas28** [comment]
A manual encoding of `imp-semantics`: [Imp.lean.txt](https://github.com/user-attachments/files/18153209/Imp.lean.txt)

**Comment by JuanCoRo** [comment]
Lean 4 features for translation
--------------------------------------------

The following features have been used to manually translate [K's Imp semantics](https://github.com/runtimeverification/imp-semantics/tree/master/src/kimp/kdist/imp-semantics) to Lean 4.

Some of what follows is outlined above. This is to have a bullet-style list of what is needed for the translation.

## Type definition
Mechanisms we'll need to define types.

### Inductive Types
These are particularly useful for user-defined syntax. They can express the productions needed to encode the semantics of Imp.

### Mutually Inductive Types
Even if the language-specific productions can be modeled with inductive types, K's internals must be defined using mutually inductive types. Example: `Map` is of sort `KItem`, but the key and value of each map entry are also of sort `KItem`. The same thing happens with cells. This is likely to be fully modeled with mutually inductive types.

### Structures
Structures will likely have some use.

### Type Classes
These are used to overload symbols. We want to overload symbols for injections of one sort into another, and we'll likely want to overload more symbols.

### Native Types
When possible, we should resort to Lean's native types such as `Int`, `Bool`, or `Lean.Data.AssocList` for `Map`.
In general, we should attempt to minimize custom data types if they have been defined elsewhere (Lean std, Batteries, or Mathlib).

## Proving Facilities and Checks
We could also auto-generate some proving facilities to make proving with the generated Lean more time efficient.
As an example, if we have a rewrite rule of the form `rule X + Y => X +Int Y`, there could be an automatically generated lemma that proves the equivalence between applying the rewrite rule and applying a function doing the transformation `X + Y -> X +Int Y` in the K cell (if that makes sense).

Additionally, we should have checks in place, in the form of theorems, to ensure that the generated translation makes sense. For instance, we should have theorems ensuring the generated injections satisfy the diamond identity described above.
If the translation process is not able to prove them automatically, it should be left to the user to check that the translation has been made correctly (by proving these theorems)

## Niceties
Some mechanisms in Lean can help a lot (in my opinion) in the long run when using the generated translation.

### Notation
Lean allows the definition of custom notation. Apart from prettifying things, this can help de-clutter horrid definitions and make working with the translation less cognitively taxing.
We could use the syntax defined in the frontend (for instance, `syntax Expr::= Expr + Expr`) to create custom notation for the generated terms (say, `Expr +' Expr` instead of `Expr.add Expr Expr`).
The same can be done for the K prelude, which will always be generated given any K definition.
This might seem like just some cosmetic touch, but for heavily involved definitions, it could be impactful.

### Coercions
In addition to notation, coercions can also significantly impact the syntactic overhead that one needs to go through to read a term. We should consider which coercions to set by default and how/if we want to enable optional coercions. Although the latter probably doesn't matter at this early stage.

### Attributes
We will probably want to add attributes such as `@[simp]` to some of our definitions, which can speed up the proving process using the translation. Hence, having the capability to tag which definitions have attributes can be very useful for later proving.

**Comment by JuanCoRo** [comment]
<details>
<summary>Manual translation of IMP semantics to Lean 4</summary>

```lean
import Lean.Data.AssocList

namespace KoreToLean
open Lean.AssocList
abbrev KId := String
-- Missing: syntax KResult ::= Value
/- TRANSLATION OF -/
/- syntax Expr ::= ... -/
/- Note that the production Value doesn't appear in definition.kore -/
inductive Expr where
  | fromInt  : Int  → Expr        -- Value (Int)
  | fromBool : Bool → Expr        -- Value (Bool)
  | fromId   : KId  → Expr        -- Id
  | brackets : Expr → Expr        -- "(" Expr ")"
  | minus    : Expr → Expr        -- "-" Expr
  | not      : Expr → Expr        -- "!" Expr
  | mul      : Expr → Expr → Expr -- Expr "*" Expr
  | div      : Expr → Expr → Expr -- Expr "/" Expr
  | add      : Expr → Expr → Expr -- Expr "+" Expr
  | sub      : Expr → Expr → Expr -- Expr "-" Expr
  | geq      : Expr → Expr → Expr -- Expr ">=" Expr
  | gt       : Expr → Expr → Expr -- Expr ">" Expr
  | leq      : Expr → Expr → Expr -- Expr "<=" Expr
  | lt       : Expr → Expr → Expr -- Expr "<" Expr
  | eq       : Expr → Expr → Expr -- Expr "==" Expr
  | neq      : Expr → Expr → Expr -- Expr "!=" Expr
  | and      : Expr → Expr → Expr -- Expr "&&" Expr
  | or       : Expr → Expr → Expr -- Expr "||" Expr
  deriving Repr, BEq

instance (priority := low): Coe Int Expr where
  coe v := Expr.fromInt v

instance (priority := low): Coe Bool Expr where
  coe v := Expr.fromBool v

instance (priority := low): Coe String Expr where
  coe s := Expr.fromId s

instance (priority := low): OfNat Expr n where
  ofNat := Expr.fromInt n

example: 3 = Expr.fromInt 3 := rfl

/- This notation could be inferred from the syntax declaration
Note that for common symbols such as * we resort to *-/
/- Notation precedence is made up, the highest is 1024 -/
notation:max "⟦"v"⟧"    => Expr.value v
notation:max "(" e ")'" => Expr.brackets e
notation:max e"⁻¹"      => Expr.minus e
notation:max "!'" e:40  => Expr.not e
infixl:200 "*'"         => Expr.mul
infixl:250 "/'"         => Expr.div
infixl:150 "+'"         => Expr.add
infixl:150 "-'"         => Expr.sub
infixl:100 ">='"        => Expr.geq
infixl:100 ">'"         => Expr.gt
infixl:100 "<='"        => Expr.leq
infixl:100 "<'"         => Expr.lt
infixl:100 "=='"        => Expr.eq
infixl:100 "!='"        => Expr.neq
infixl:150 "&&'"        => Expr.and
infixl:150 "||'"        => Expr.or

/- Now we can write expressions such as -/
#check 3 +' true /' false
#check (false⁻¹ ==' true)' ==' 4

inductive Stmt where
  | assign        : KId  -> Expr -> Stmt
  | if_else       : Expr -> Stmt -> Stmt -> Stmt
  | if_single     : Expr -> Stmt -> Stmt
  | while         : Expr -> Stmt -> Stmt
  | curly_brakets : Stmt -> Stmt
  | empty_brakets : Stmt
  | seq_stmt      : Stmt -> Stmt -> Stmt -- check priority
  deriving Repr, BEq

notation kid "=" e ";" => Stmt.assign kid e
notation "if(" e ")" s₁:200 "else" s₂:200 => Stmt.if_else e s₁ s₂
notation "if(" e ")" s:200 => Stmt.if_single e s
notation "while(" e:200 ")" s:200 => Stmt.while e s
notation "{" s "}" => Stmt.curly_brakets s
notation "{}" => Stmt.empty_brakets
notation:70 s₁:70 "⁀" s₂:70 => Stmt.seq_stmt s₁ s₂

#check "x" = 3;

/- The following should be subsorts of KItem:
EnvCell,
Id,
GeneratedTopCell,
GeneratedCounterCell,
KCell,
Int,
Bool,
Map,
Expr,
Stmt
But we only add the following:
Id,
Int,
Bool,
Expr,
Stmt
 -/
inductive KItem where
  | inj_Int  : Int    → KItem
  | inj_Bool : Bool   → KItem
  | inj_Id   : String → KItem
  | inj_Expr : Expr   → KItem
  | inj_Stmt : Stmt   → KItem
  deriving Repr, BEq

instance: OfNat KItem n where
  ofNat := KItem.inj_Int n

/- We need to define the canonical injections from any sort to KItem
Canonical injections will be represented by the inj type class -/
/- NOTE: Instances of Inj classes will all have the @[simp] attribute! -/
class Inj (a b : Type) where
  inj : a → b
abbrev InjKItem (a : Type) := Inj a KItem
abbrev InjExpr  (a : Type) := Inj a Expr

@[simp]
def injExpr {α : Type} [i : InjExpr α] (a : α) : Expr := i.inj a
/- Expr injections for Int, Bool and Nat -/
@[simp]
instance: InjExpr Int where
  inj := Expr.fromInt
@[simp]
instance: InjExpr Bool where
  inj := Expr.fromBool
@[simp]
instance: InjExpr KId where
  inj := Expr.fromId
instance: Coe Int Expr where
  coe := injExpr
instance: Coe Bool Expr where
  coe := injExpr
instance: Coe KId Expr where
  coe := injExpr

@[simp]
def injKItem {α : Type} [i : InjKItem α] (a : α) : KItem := i.inj a
/- KItem injections for Int, Bool and Nat -/
@[simp]
instance: InjKItem Int where
  inj := KItem.inj_Int
@[simp]
instance: InjKItem Bool where
  inj := KItem.inj_Bool
@[simp]
instance: InjKItem KId where
  inj := KItem.inj_Id
instance: Coe Int KItem where
  coe := injKItem
instance: Coe Bool KItem where
  coe := injKItem
instance: Coe KId KItem where
  coe := injKItem


/- KItem injections for Expr -/
@[simp]
instance: InjKItem Expr where
  inj expr := match expr with
              | Expr.fromInt e  => KItem.inj_Int e
              | Expr.fromBool e => KItem.inj_Bool e
              | Expr.fromId e   => KItem.inj_Id e
              | e               => KItem.inj_Expr e

instance: Coe Expr KItem where
  coe := injKItem

#check (3 +' true /' false : Expr)
#check (3 +' true /' false : KItem)

/- With the current definition we have the following triangle:

    KItem
     /  \
   Expr |
     \ /
Int/Bool/Id

In which an integer can be considered a KItem via being a expresison or as an integer. The following theorems show that
inj{Expr,KItem} ∘ inj{Int,Expr} = inj{Int,KItem}, i.e.
injKItem ∘ injExpr = injKItem for the domains Int/Bool/Id
 -/
set_option pp.all false -- change to `true` for full terms
theorem inj_Int_sound (n : Int) : ((n : Expr) : KItem) = (n : KItem) := by simp
theorem inj_Bool_sound (b : Bool) : ((b : Expr) : KItem) = (b : KItem) := by simp
theorem inj_Id_sound (s : KId) : ((s : Expr) : KItem) = (s : KItem) := by simp
example: 3 = ((3 : Expr) : KItem) := rfl
example: 3 = KItem.inj_Int 3 := rfl
/- Note that 3 : KItem is KItem.inj_Int 3.
With this formalization, elements of the form
`KItem.inj_Expr (Expr.fromInt n)` are dangling -/
example: 3 ≠ KItem.inj_Expr (3 : Int) := KItem.noConfusion

/- KItem injections for Stmt -/
@[simp]
instance: InjKItem Stmt where
  inj := KItem.inj_Stmt
instance: Coe Stmt KItem where
  coe := injKItem

#check ("x" = 3; : KItem)
#check (3 : KItem)

/- K structures like K, Map, Cells... -/
/- Note that these structures don't belong to the sort KItem -/
abbrev K := List KItem
notation ".K" => @List.nil KItem
infixr:10 "~>" => @List.cons KItem -- Shouldn't have high priority

-- Coercion makes a singleton list
instance : Coe KItem K where
  coe kitem := kitem ~> .K

example: ((4 : Int) : KItem) = ((4 : Expr) : KItem) := rfl

abbrev Map := Lean.AssocList KItem KItem
notation ".Map" => @nil KItem KItem
notation M"[" v "<-" k "]" => @cons KItem KItem k v M
#check .Map
#check .Map[3 <- "x"]

structure EnvCell where
  env : Map
structure KCell where
  k : K
structure GeneratedTopCell where
  kCell   : KCell
  envCell : EnvCell
abbrev Cfg := GeneratedTopCell

notation "<k>" k "</k>" => KCell.mk k
notation "<env>" envMap "</env>" => EnvCell.mk envMap
-- We can't just put ⟪k e⟫. We need to separate them
notation "⟪" k "," e "⟫" => GeneratedTopCell.mk k e

#check (<k> .K </k> : KCell)
#check (<env> .Map </env> : EnvCell)
#check (⟪<k> .K </k>, <env> .Map </env>⟫ : Cfg)

/- We need a function `lookup` to find the value of a key in a Map if we know the key is present -/
theorem contains_find_some {m : Map} {x : KId} (h : contains (x : KItem) m) :
∃ v : KItem, m.find? (x:KItem) = some v := by
  induction m <;> simp [contains] at h
  case cons k v ms ih =>
  cases h <;> simp [find?, *]
  case inr h' =>
  cases (ih h'); case intro v' s =>
  split; exists v; exists v'

def lookup (m : Map) (x : KId) (h : contains (x : KItem) m) : KItem :=
  match f: m.find? (x : KItem) with
  | some v => v
  | none => by
    exfalso; cases (contains_find_some h)
    case intro k h' => rw [h'] at f; contradiction
--The following proof makes `lookup` noncomputable
/- by
  induction m <;> simp[contains] at h
  case cons k v ms _ => exact v -/

#print lookup
#reduce lookup (.Map[3 <- "x"]) "x" rfl
#eval lookup (.Map[3 <- "x"]) "x" rfl
example: lookup (.Map[3 <- "x"]) "x" rfl = 3 := by rfl

/- RewriteStep is the 1-step rewrite relation -/
inductive RwS : Cfg → Cfg → Prop where
  /- Expr rules -/
  --rule - X => 0 -Int X
  | neg {n : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n⁻¹ ~> k</k>, e⟫
        ⟪<k>(0 : Int) - n ~> k</k>, e⟫
  -- rule ! B => notBool B
  | not {b : Bool} {k : K} {e : EnvCell} :
    RwS ⟪<k>!'n ~> k</k>, e⟫
        ⟪<k>!b ~> k</k>, e⟫
  -- rule X + Y => X +Int Y
  | add {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n +' m ~> k</k>, e⟫
        ⟪<k>n + m ~> k</k>, e⟫
  -- rule X - Y => X -Int Y
  | sub {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n -' m ~> k</k>, e⟫
        ⟪<k>n - m ~> k</k>, e⟫
  -- rule X * Y => X *Int Y
  | mul {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n *' m ~> k</k>, e⟫
        ⟪<k>n * m ~> k</k>, e⟫
  -- rule X / Y => X /Int Y (not really /Int)
  | div {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n /' m ~> k</k>, e⟫
        ⟪<k>n / m ~> k</k>, e⟫
  -- rule I1 >= I2 => I1 >=Int I2
  | ge {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n >=' m ~> k</k>, e⟫
        ⟪<k>decide (n >= m) ~> k</k>, e⟫
  -- rule I1 > I2 => I1 >=Int I2
  | gt {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n >' m ~> k</k>, e⟫
        ⟪<k>decide (n > m) ~> k</k>, e⟫
  -- rule I1 <= I2 => I1 >=Int I2
  | le {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n <=' m ~> k</k>, e⟫
        ⟪<k>decide (n <= m) ~> k</k>, e⟫
  -- rule I1 < I2 => I1 >=Int I2
  | lt {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n <' m ~> k</k>, e⟫
        ⟪<k>decide (n < m) ~> k</k>, e⟫
  -- rule B1 == B2 => B1 ==Bool B2
  | eq_bool {n m : Bool} {k : K} {e : EnvCell} :
    RwS ⟪<k>n ==' m ~> k</k>, e⟫
        ⟪<k>n == m ~> k</k>, e⟫
  -- rule B1 == B2 => B1 ==Int B2
  | eq_Int {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n ==' m ~> k</k>, e⟫
        ⟪<k>n == m ~> k</k>, e⟫
  -- rule B1 != B2 => B1 !=Bool B2
  | neq_bool {n m : Bool} {k : K} {e : EnvCell} :
    RwS ⟪<k>n !=' m ~> k</k>, e⟫
        ⟪<k>n != m ~> k</k>, e⟫
  -- rule B1 != B2 => B1 !=Int B2
  | neq_Int {n m : Int} {k : K} {e : EnvCell} :
    RwS ⟪<k>n !=' m ~> k</k>, e⟫
        ⟪<k>n != m ~> k</k>, e⟫
  -- rule true  && B => B
  | and_t {b : Bool} {k : K} {e : EnvCell} :
    RwS ⟪<k>true &&' b ~> k</k>, e⟫
        ⟪<k>b ~> k</k>, e⟫
  -- rule false && _ => false
  | and_f {b : Bool} {k : K} {e : EnvCell} :
    RwS ⟪<k>false &&' _ ~> k</k>, e⟫
        ⟪<k>false ~> k</k>, e⟫
  -- rule true  || _ => true
  | or_t {k : K} {e : EnvCell} :
    RwS ⟪<k>true ||' _ ~> k</k>, e⟫
        ⟪<k>true ~> k</k>, e⟫
  -- rule false || B => B
  | or_f {b : Bool} {k : K} {e : EnvCell} :
    RwS ⟪<k>false ||' b ~> k</k>, e⟫
        ⟪<k>b ~> k</k>, e⟫
  /- Calc rules -/
  -- rule [step]: <k> S1:Stmt S2:Stmt => S1 ~> S2 ... </k>
  | seq_stmt {s₁ s₂ : Stmt} {k : K} {e : EnvCell} :
    RwS ⟪<k>s₁⁀s₂ ~> k</k>, e⟫
        ⟪<k>s₁ ~> s₂ ~> k</k>, e⟫
  -- rule [var]:
  --   <k> X:Id => V ... </k>
  --   <env> X |-> V ... </env>

  | eval {x : KId} {k : K} {e : EnvCell} {h : contains (x : KItem) e.env}:
    RwS ⟪<k>x ~> k</k>, e⟫
        ⟪<k>lookup e.env x h ~> k</k>, e⟫
  -- rule [assign]:
  --   <k> X = V:Value ; => .K ... </k>
  --   <env> E => E [ X <- V ] </env>

  | assign {x : KId} {v : Expr} {k : K} {env : Map}:
    RwS ⟪<k>x = v; ~> k</k>, <env> env </env>⟫
        ⟪<k>k</k>, <env>env[v <- x]</env>⟫
  /- Imp rules -/
  -- rule  <k> if ( true  ) S1 else _  => S1 ... </k>
  | if_else_true {s : Stmt} {k : K} {e : EnvCell}:
    RwS ⟪<k>if true then s else _ ~> k</k>, e⟫
        ⟪<k>s ~> k</k>, e⟫
  -- rule <k> if ( false ) _  else S2 => S2 ... </k>
  | if_else_false {s : Stmt} {k : K} {e : EnvCell}:
    RwS ⟪<k>if(false) _ else s ~> k</k>, e⟫
        ⟪<k>s ~> k</k>, e⟫
  -- rule <k> if ( C ) S => if ( C ) S else {} ... </k>
  | if {b : Bool} {s : Stmt} {k : K} {e : EnvCell}:
    RwS ⟪<k>if(b) s ~> k</k>, e⟫
        ⟪<k>if(b) s else {} ~> k</k>, e⟫
  -- rule <k>
  --        while ( C ) S
  --         =>
  --         if ( C ) {
  --            S
  --            while ( C ) S
  --         }
  --         ...
  --      </k>

  | while {b : Bool} {s : Stmt} {k : K} {e : EnvCell}:
    RwS ⟪<k> while(b) s ~> k</k>, e⟫
        ⟪<k> if(c) {s ⁀ while(b) s} ~> k</k>, e⟫
  -- rule <k> { S } => S ~> { } ... </k>
  | block {s : Stmt} {k : K} {e : EnvCell}:
    RwS ⟪<k> { s } ~> k</k>, e⟫
        ⟪<k> s ~> {} ~> k</k>, e⟫
  -- rule <k> { } => .K ... </k>
  | empty {k : K} {e : EnvCell}:
    RwS ⟪<k>{} ~> k</k>, e⟫
        ⟪<k> k </k>, e⟫

infixr:50 "⇛" => RwS

-- set_option pp.notation false
#print RwS.not
#print RwS.neq_Int
#print RwS.seq_stmt
#print RwS.if

example: ⟪<k> "x" = 3; ~> .K </k>, <env> .Map </env>⟫
         ⇛
         ⟪<k> .K </k>, <env> .Map[3 <- "x"] </env>⟫
         := by constructor

example:
        ⟪<k> "x" ~> .K </k>,
         <env> .Map[3 <- "x"] </env>⟫
         ⇛
         ⟪<k> 3 ~> .K </k>,
          <env> .Map[3 <- "x"] </env>⟫
        := by constructor; rw [contains]; rfl

end KoreToLean
```
